US05854275
To a solution of benzyl 1-(1-tert-butoxycarbonyl-3-hydroxy-1-propylamino)cyclohexanecarboxylate (466 mg, 1.19 mmol) in dry tetrahydrofuran (12 mL) was added 1,3-dioxo-1,3-dihydrobenzo[f]isoindole (258 mg, 1.31 mmol), triphenylphosphine (344 mg, 1.31 mmol) and diethylazodicarboxylate (0.21 mL, 1.31 mmol). The resulting mixture was stirred at room temperature for 6 days. The solvent was evaporated under vacuum and the residue was chromatographed on silica gel eluting first methylene chloride and then with 2% ethyl acetate in methylene chloride to afford 1-[1-tert-butoxycarbonyl-3-(1,3-dioxo-1,3-dihydrobenzo[f]isoindol-2-yl)propylamino]cyclohexanecarboxylic acid benzyl ester as a white solid, 530 mg (78%).

reactant | benzyl 1-(1-tert-butoxycarbonyl-3-hydroxy-1-propylamino)cyclohexanecarboxylate | 1.19 mmol, 466 mg | C(C)(C)(C)OC(=O)C(CCO)NC1(CCCCC1)C(=O)OCC1=CC=CC=C1 | C22H33NO5
reactant | 1,3-dioxo-1,3-dihydrobenzo[f]isoindole | 1.31 mmol, 258 mg | O=C1NC(C=2C=C3C(=CC12)C=CC=C3)=O | C12H7NO2
reactant | triphenylphosphine | 1.31 mmol, 344 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 1.31 mmol, 0.21 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | 1-[1-tert-butoxycarbonyl-3-(1,3-dioxo-1,3-dihydrobenzo[f]isoindol-2-yl)propylamino]cyclohexanecarboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C1(CCCCC1)NC(CCN1C(C=2C=C3C(=CC2C1=O)C=CC=C3)=O)C(=O)OC(C)(C)C | C34H38N2O6
